US07795282B2
Step B: Preparation of 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-3-(3-methyl-1H-1,2,4-triazol-5-yl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole:
To a solution of methyl 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbimidothioate (0.034 g, 0.079 mmol) in 1 mL pyridine was added acetohydrazide (0.017 g, 0.240 mmol). The mixture was warmed to 80° C. and stirred for 16 hours, then treated with acetohydrazide (0.050 g) and stirred at reflux for 40 hours. The cooled mixture was treated with water (10 mL) and extracted with EtOAc (3×10 mL). The combined organic phases were washed with water (10 mL) and brine (10 mL), then dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (10-20% ethyl acetate/hexanes) to afford the desired product as a pale yellow solid, 0.010 g, 29%.

reactant | methyl 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbimidothioate | 0.079 mmol, 0.034 g | N(=[N+]=[N-])CCCC1(SC(=NN1C(=N)SC)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C19H18F2N6S2
reactant | acetohydrazide | 0.240 mmol, 0.017 g | C(C)(=O)NN | C2H6N2O
reactant | acetohydrazide | 0.050 g | C(C)(=O)NN | C2H6N2O
reactant | water | 10 mL | O | H2O
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-3-(3-methyl-1H-1,2,4-triazol-5-yl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole | N(=[N+]=[N-])CCCC1(SC(=NN1C1=NC(=NN1)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C20H18F2N8S
